US05589474
(b) 4,8-Bis(trifluoromethyl)-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-one
2-(2-Amino-4-trifluoromethylphenylthio)-3-trifluoromethylbenzonitrile (5.43 g, 15 mmol) was dissolved in a mixture of glacial acetic acid (60 ml), concentrated sulphuric acid (55 ml) and water (60 ml) and then heated under reflex for 8 hours. The cooled mixture was added to ice water (500 ml) and brought to pH 4 by addition of 10N aqueous sodium hydroxide. Extraction with dichloromethane followed by filtration, drying (sodium sulphate) and evaporation of the organic layer afforded a residue which was put into xylene (500 ml) and refluxed for 72 hours with azeotropic removal of water. The resulting solution was evaporated and the residue was recrystallised twice from ethanol to give the product as colourless needles (4.30 g, m/s, M+ =363).

reactant | 2-(2-Amino-4-trifluoromethylphenylthio)-3-trifluoromethylbenzonitrile | 15 mmol, 5.43 g | NC1=C(C=CC(=C1)C(F)(F)F)SC1=C(C#N)C=CC=C1C(F)(F)F | C15H8F6N2S
reactant | sodium hydroxide | 10N | [OH-].[Na+]
reactant | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 55 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 60 ml | O | H2O
product | 4,8-Bis(trifluoromethyl)-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-one | 4.30 g | FC(C1=CC=CC=2C(NC3=C(SC21)C=CC(=C3)C(F)(F)F)=O)(F)F | C15H7F6NOS
